US06562978B1
tert-Butyl 4-[4-(Methylsulfanyl)phenoxy]-1-piperidinecarboxylate
A solution of diethyl azodicarboxylate in toluene (6.76 ml, 14.9 mmol) was added dropwise to a mixture of tert-butyl 4-hydroxypiperidine-1-carboxylate (2 g, 9.94 mmol), 4-(Methylsulfanyl)phenol (2,8 g, 20 mmol), triphenylphosphine (3.9 g, 15 mmol) and THF (20 ml) over the period of 0.5 h at 0° C. The resulting solution was stirred at room temperature for 3 d. The mixture was diluted in ethyl acetate (20 ml) and the whole was washed with 1N aqueous sodium hydroxide (20 ml), 0.5N hydrochloric acid (20 ml) and saturated sodium chloride solution (20 ml). The organic layer was dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by flash column chromatography (silica gel 25 g, ethyl acetate/hexane=1/20 to 1/10) to give the title compound (1.8 g, 52%) as a colorless powder.

reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | toluene | 14.9 mmol, 6.76 ml | C1(=CC=CC=C1)C | C7H8
reactant | tert-butyl 4-hydroxypiperidine-1-carboxylate | 9.94 mmol, 2 g | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | 4-(Methylsulfanyl)phenol | 20 mmol, 2,8 g | CSC1=CC=C(C=C1)O | C7H8OS
reactant | triphenylphosphine | 15 mmol, 3.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | tert-Butyl 4-[4-(Methylsulfanyl)phenoxy]-1-piperidinecarboxylate | 1.8 g, 52% | CSC1=CC=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C17H25NO3S
